US07407961B2
3-Amino-6-(6-methoxy-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile (800 mg) was dissolved in dioxane and conc. HC. The solution was stirred at 80° C. for 15 hours. Dioxane was evaporated out. The reaction mixture was cooled to room temperature and concentrated in vacuo to give residue. To the residue was added 1N NaOH to adjust the pH of the aqueous mixture to 6-7. The crystals were collected by filtration, and dried in vacuo to give 3-amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylic acid as powder (600 mg).

reactant | 3-Amino-6-(6-methoxy-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile | 800 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C=1C=NC(=CC1)OC)C#N | C17H13N5O
reactant | NaOH | 1N | [OH-].[Na+]
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 3-amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylic acid | 600 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CNC(C=C1)=O)C(=O)O | C16H12N4O3
